US07030118B2
A) Methyl 1-amino-5-chloro-1H-pyrrole-2-carboxylate, hydrochloride salt
A mixture of sodium hydride (60%, 1.01 g, 25 mmol) and methyl 5-chloro-1H-pyrrole-2-carboxylate (J. Chem. Soc. 1965, 459–470, 2.96 g, 19.6 mmol) in DMF (40 mL) at 0° C. was stirred for 20 min, then was added 2,4-dinitrophenolamine (Tetrahedron Lett. 1968, 16, 1909–1910 and J. Heterocyclic Chem. 1967, 413, 3.90 g, 19.6 mmol) and the reaction mixture was stirred at 0° C. to rt overnight. The reaction mixture was diluted with saturated NaHCO3 solution and the product was extracted with EtOAc (3×100 mL). The EtOAc solution was washed with saturated NaHCO3 solution (4×60 mL), 10% LiCl solution (80 mL), brine (80 mL), dried over MgSO4 and concentrated in vacuo to give the crude product as a brown oil. The crude product was treated with 4 N HCl in dioxane in Et2O. The precipitated solid was collected, washed with Et2O and dried in vacuo to obtain the title compound (1.91 g, 50%): 1H NMR (DMSO-d6) δ 6.76 (d, 1H, J=4.4 Hz), 6.11 (d, 1H, J=4.4 Hz), 4.23 (q, 2H, J=6.02 Hz), 1.28 (t, 3H, J=6.02 Hz); 13C NMR (DMSO-d6) δ 159.9, 122.9, 120.3, 114.0, 104.6, 59.8, 14.3.

reactant | sodium hydride | 25 mmol, 1.01 g | [H-].[Na+]
reactant | methyl 5-chloro-1H-pyrrole-2-carboxylate | 19.6 mmol, 2.96 g | ClC1=CC=C(N1)C(=O)OC | C6H6ClNO2
reactant | HCl | 4 N | Cl | ClH
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | Methyl 1-amino-5-chloro-1H-pyrrole-2-carboxylate, hydrochloride salt | 1.91 g, 50% | Cl.NN1C(=CC=C1Cl)C(=O)OC | InChI=1S/C6H7ClN2O2.ClH/c1-11-6(10)4-2-3-5(7)9(4)8;/h2-3H,8H2,1H3;1H
